US07157455B2
(4-Amino-2-methylsulfanyl-pyrimidin-5-yl)-(2-ethoxy-5-fluoro-phenyl)-methanone
The compound was prepared from 4-amino-2-ethylsulfanyl-pyrimidine-5-carboxylic acid methoxy-methyl-amide, Example 1, and 2-bromo-1-ethoxy-4-fluoro-benzene (prepared from 2-bromo-4-fluoro-phenol, Aldrich) in an analogous manner as described in Example 169.

reactant | 4-amino-2-ethylsulfanyl-pyrimidine-5-carboxylic acid methoxy-methyl-amide | CON(C(=O)C=1C(=NC(=NC1)SCC)N)C | C9H14N4O2S
reactant | 2-bromo-1-ethoxy-4-fluoro-benzene | BrC1=C(C=CC(=C1)F)OCC | C8H8BrFO
product | (4-Amino-2-methylsulfanyl-pyrimidin-5-yl)-(2-ethoxy-5-fluoro-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)F)OCC)SC | C14H14FN3O2S
